US05179121
S-Benzyl 4-chloro-4,4-difluorothiobutyrate
4.0 g of 4-chloro-4,4-difluorobutyric acid are added dropwise over the course of 45 minutes to a solution of 4.5 g of N,N'-carbonyldiimidazole in 30 ml of dimethylformamide at 0° C. After the solution has been stirred at 0° C. for 2 hours, 2.82 g of benzyl mercaptan are added and the mixture is allowed to warm to room temperature over the course of 17 hours. Then 100 ml of ethyl acetate are added and the organic solution is washed with saturated sodium chloride solution. The organic phase is dried over MgSO4 and evaporated. The resulting crude product is purified by chromatography on silica gel (mobile phase: hexane/ethyl acetate 9:1). This results in 4.0 g of S-benzyl 4-chloro-4,4-difluorothiobutyrate as an oil, nD20 : 1.5220.

reactant | 4-chloro-4,4-difluorobutyric acid | 4.0 g | ClC(CCC(=O)O)(F)F | C4H5ClF2O2
reactant | benzyl mercaptan | 2.82 g | C(C1=CC=CC=C1)S | C7H8S
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | S-Benzyl 4-chloro-4,4-difluorothiobutyrate | ClC(CCC(=O)SCC1=CC=CC=C1)(F)F | C11H11ClF2OS
